US08580803B2
(4-((3-(2-Hydroxyethyl)phenyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(phenyl)methanone was synthesized using 2-(3-aminophenyl)ethanol and (4-chloro-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(phenyl)methanone according to the general procedure A. A white solid was obtained. M.p.>300° C.; 400 MHz 1HNMR (DMSO-d6) δ 11.25 (s, 1H), 8.42 (s, 1H), 7.90-7.81 (m, 4H), 7.65-7.55 (m, 4H), 7.26 (m, 1H), 6.90 (d, J=7.2 Hz, 1H), 4.63 (s, 1H), 3.61-3.60 (m, 2H), 2.74-2.70 (m, 2H); LCMS [M+H] 359.

reactant | 2-(3-aminophenyl)ethanol | NC=1C=C(C=CC1)CCO | C8H11NO
reactant | (4-chloro-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(phenyl)methanone | ClC=1C2=C(N=CN1)NC=C2C(=O)C2=CC=CC=C2 | C13H8ClN3O
product | (4-((3-(2-Hydroxyethyl)phenyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(phenyl)methanone | OCCC=1C=C(C=CC1)NC=1C2=C(N=CN1)NC=C2C(=O)C2=CC=CC=C2 | C21H18N4O2
